US06495546B1
A solution of N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (188 mg) in ethyl acetate (2 ml) was treated with 4N hydrogen chloride in ethyl acetate (2 ml) for 3 hours. The mixture was evaporated in vacuo and washed with diethyl ether three times. The residue was triturated in diisopropyl ether, and precipitated powder was collected by filtration to afford 6-[(2S)-2-hydroxy-3phenoxypropyl]amino-3-acetyloxymethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene (113 mg).

reactant | N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 188 mg | OCC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C32H49NO5Si
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 6-[(2S)-2-hydroxy-3phenoxypropyl]amino-3-acetyloxymethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | 113 mg | O[C@@H](CNC1CC2=C(CCC1)C=CC(=C2)COC(C)=O)COC2=CC=CC=C2 | C23H29NO4
